US04309424
3.00 g of N-Ethyl-2-nitro-α-phenylphenethylamine hydrochloride is treated with 100 ml of hot 95% ethanol containing 1.10 g of potassium hydroxide for 15 minutes, after which the mixture is filtered and placed in a Paar flask. 0.15 g of 10% palladium on charcoal is added and the mixture is hydrogenated at room temperature and 50 psia for 3 hours, after which the catalyst is removed. The ethanol is evaporated from the filtrate and the resulting yellow oil is poured onto 100 ml of water. The biphasic aqueous mixture is extracted with methylene chloride (2×100 ml). The combined methylene chloride extracts are dried over anhydrous magnesium sulfate and the methylene chloride evaporated to afford a colorless oil. The oil is dissolved in 50 ml of ether. Ethereal hydrogen chloride (100 ml) is added precipitating the hydrochloride acid salt as an oil. The ethanol is evaporated and the oil is dissolved in 20 ml of i-propanol with heating. Upon cooling, white crystals, mp >248° C. dec, fell from solution providing 2-amino-N-ethyl α-phenylphenethylamine dihydrochloride.

reactant | N-Ethyl-2-nitro-α-phenylphenethylamine hydrochloride | 3.00 g | Cl.C(C)NC(CC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1
reactant | ethanol | 1.10 g | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen chloride | 100 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-amino-N-ethyl α-phenylphenethylamine dihydrochloride | Cl.Cl.NC1=C(CC(C2=CC=CC=C2)NCC)C=CC=C1 | InChI=1S/C16H20N2.2ClH/c1-2-18-16(13-8-4-3-5-9-13)12-14-10-6-7-11-15(14)17;;/h3-11,16,18H,2,12,17H2,1H3;2*1H
